US05057614
A solution of 0.411 g of 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(2-nitrophenyl)furan-2,5-dione in 50 ml of chloroform was treated with a mixture of 1.53 g of 1,1,1,3,3,3-hexamethyldisilazane and 0.3 g of methanol and the mixture was heated at 60° C. for 1 hour. A further 1.53 g of hexamethyldisilazane and a further 0.3 g of methanol were added and the heating was continued overnight before adding further 1.53 g of hexamethyldisilazane and 0.3 g of methanol. The mixture was heated for a further 1 hour. The solvents were removed under reduced pressure and the residue was chromatographed on silica gel with 5% methanol in dichloromethane to give 130 mg of 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(2-nitrophenyl)-1H-pyrrole-2,5-dione, m.p. 77°-78° C.

reactant | 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(2-nitrophenyl)furan-2,5-dione | 0.411 g | C(C)(=O)OCCCN1C=C(C2=CC=CC=C12)C=1C(OC(C1C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C23H18N2O7
reactant | 1,1,1,3,3,3-hexamethyldisilazane | 1.53 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 0.3 g | CO | CH4O
reactant | hexamethyldisilazane | 1.53 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 0.3 g | CO | CH4O
reactant | hexamethyldisilazane | 1.53 g | C[Si](N[Si](C)(C)C)(C)C | C6H19NSi2
reactant | methanol | 0.3 g | CO | CH4O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 3-[1-(3-acetoxypropyl)-3-indolyl]-4-(2-nitrophenyl)-1H-pyrrole-2,5-dione | 130 mg | C(C)(=O)OCCCN1C=C(C2=CC=CC=C12)C=1C(NC(C1C1=C(C=CC=C1)[N+](=O)[O-])=O)=O | C23H19N3O6
